US05602170
Synthesis of 5-(3,4-distearyloxy-1-butynyl)-2,2'-bithiophene
170 mg (0.68 mmole) of 5-(3,4-dihydroxy-1-butynyl)-2,2-bithiophene was dissolved in a mixture of 10 ml of dichloromethane and 0.2 ml of pyridine. 0.7 g of stearoyl chloride dissolved in 10 ml of dichloromethane was then dropped into the reaction mixture in ice bath. This reaction solution was stirred for 2 days. It was monitored by thin layer chromatography to determine if there were 3 products obtained, i.e. a mixture of 1 diester and 2 monoesters.

reactant | 5-(3,4-dihydroxy-1-butynyl)-2,2-bithiophene | 0.68 mmole, 170 mg | OC(C#CC1=CC=C(S1)C=1SC=CC1)CO | C12H10O2S2
reactant | stearoyl chloride | 0.7 g | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(3,4-distearyloxy-1-butynyl)-2,2'-bithiophene | C(CCCCCCCCCCCCCCCCC)OC(C#CC1=CC=C(S1)C=1SC=CC1)COCCCCCCCCCCCCCCCCCC | C48H82O2S2
